US08541587B2
Step 3: 1-(4′-{3-Methyl-4-[6-(2-methyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid
1-(4′-{3-Methyl-4-[6-(2-methyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester (0.015 g, 0.03 mmol) was dissolved in MeOH (3 mL) and treated with LiOH (0.50 mL of 1.0 N aq solution) and stirred at room temperature for 72 hrs. The resulting mixture was neutralized with HCl (0.50 mL of 1.0 N aq solution) and purified on reverse-phase preparative HPLC to afford the title compound.

reactant | 1-(4′-{3-Methyl-4-[6-(2-methyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | 0.03 mmol, 0.015 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=C(C=CC=C1)C | C34H31N3O3
reactant | LiOH | 1.0 N, 0.50 mL | [Li+].[OH-]
reactant | HCl | 1.0 N, 0.50 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | 1-(4′-{3-Methyl-4-[6-(2-methyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | CC1=NOC(=C1NC1=NC(=CC=C1)C1=C(C=CC=C1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C32H27N3O3
